US05166026
Preparation of Poly (31 Percent Weight of Undecylenyl Iodide-Eicosene) Copolymer
To a glass screw top jar were added undecylenyl iodide (5 grams), toluene solvent (30 grams) and eicosene (5 grams, Aldrich Chemical). Under argon atmosphere were added diethyl aluminum chloride (10 milliliters of a 1.8 molar solution in toluene) and 0.5 teaspoon of TiCl3 --AA (available from Alfa, about 2 grams). Two additional charges of both catalysts were added in 90 minute intervals and then the reaction mixture was stirred for 16 hours at 25° C. Methanol was added and the mixture was precipitated into methanol/hydrochloric acid using a Waring blender. The solids were sequentially washed with methanol, water and then methanol using a blender and the residue was isolated by filtration and dried in vacuo to yield 6.26 grams of the grey rubbery product, poly(undecylenyl iodide-eicosene) copolymer. 13C NMR (in deuterated chloroform) analysis measured a ratio of CH2 --I groups to CH3 groups present to be 31 weight percent.

reactant | undecylenyl iodide | 5 grams | C(CCCCCCCCC=C)I | C11H21I
reactant | eicosene | 5 grams | C=CCCCCCCCCCCCCCCCCCC | C20H40
reactant | diethyl aluminum chloride | [Cl-].C(C)[Al+]CC
reactant | Methanol | CO | CH4O
solvent | toluene | 30 grams | C1(=CC=CC=C1)C | C7H8
product | Undecylenyl Iodide Eicosene | 6.26 grams | C(CCCCCCCCC=C)I.C=CCCCCCCCCCCCCCCCCCC | InChI=1S/C20H40.C11H21I/c1-3-5-7-9-11-13-15-17-19-20-18-16-14-12-10-8-6-4-2;1-2-3-4-5-6-7-8-9-10-11-12/h3H,1,4-20H2,2H3;2H,1,3-11H2
